US08835412B2
Preparation of N-(biphenyl-4-yl)hydroxylamine (Intermediate 24)
To a mixture of 4-nitrobiphenyl (400 mg, 2.008 mmol) and 5% rhodium on carbon (15 mg, 0.146 mmol) in tetrahydrofuran (15 ml), hydrazine hydrate (0.200 ml, 2.61 mmol) was added, and gas evolution was observed. The reaction mixture was stirred at RT for 25 minutes, then it was partitioned between diethyl ether (90 ml) and brine (20 ml), and the phases were separated. The aqueous phase was extracted with diethyl ether (90 ml), and the combined organic extracts were dried (Na2SO4) and concentrated to give 370 mg of the desired compound (89% purity) and about. The mixture was used as such for the next step.

reactant | 4-nitrobiphenyl | 2.008 mmol, 400 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=CC=C1 | C12H9NO2
reactant | hydrazine hydrate | 2.61 mmol, 0.200 ml | O.NN
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
catalyst | rhodium on carbon | 0.146 mmol, 15 mg | [Rh] | Rh
product | N-(biphenyl-4-yl)hydroxylamine | 370 mg, 89% | C1(=CC=C(C=C1)NO)C1=CC=CC=C1 | C12H11NO
